US04256761
N-(3-Acetylthio-2-methylpropanoyl)-N-cycloheptylglycine t-butyl ester
To a stirred and chilled (0°-5° C.) solution of N-cycloheptylglycine t-butyl ester (32.9 g, 0.12 mol) and triethyl amine (13.2 g, 0.13 mol) in methylene chloride (150 ml) was added dropwise 3-acetylthio-2-methylpropanoyl chloride (21.6 g, 0.12 mol) dissolved in 50 ml methylene chloride. The reaction mixture was stirred overnight. Filtration of the reaction mixture followed by washing the filtrate with saturated sodium bicarbonate (500 ml), brine (500 ml), 5% HCL (4×500 ml), brine (500 ml), saturated aqueous sodium bicarbonate (3×500 ml), brine (500 ml); drying the organic layer over Na2SO4 and MgSO4 ; filtration; and solvent evaporation afforded a nearly quantitative yield of the desired compound (44 g, crude).

reactant | N-cycloheptylglycine t-butyl ester | 0.12 mol, 32.9 g | C(C)(C)(C)OC(CNC1CCCCCC1)=O | C13H25NO2
reactant | triethyl amine | 0.13 mol, 13.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-acetylthio-2-methylpropanoyl chloride | 0.12 mol, 21.6 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Acetylthio-2-methylpropanoyl)-N-cycloheptylglycine t-butyl ester | 44 g, quantitative yield | C(C)(C)(C)OC(CN(C1CCCCCC1)C(C(CSC(C)=O)C)=O)=O | C19H33NO4S
